US06329550B1
13.2 Synthesis of N,N′-di-(4-chlorophenethyl)-2-(2-mercapto-3-phenylpropionylamino)malonamide
Combine of N,N′-di-(4-chlorophenethyl)-2-((S)-2-(p-methoxybenzylmercapto)-3-phenylpropionylamino)malonamide (0.29 g, 0.43 mmol), mercury (II) acetate (0.171 g, 0.54 mmol), and anisole (0.47 mL) in dichloromethane (10 mL). Cool in an ice bath and degas by repeatedly applying vacuum and filling the vessel with nitrogen. Add trifluoroacetic acid (4 mL). After 3 hours, purge with hydrogen sulfide (gas) for about 10 minutes. Filter and evaporate in vacuo to give a residue. Triturate the residue with diethyl ether to give the title compound as a solid (80%).

reactant | N,N′-di-(4-chlorophenethyl)-2-((S)-2-(p-methoxybenzylmercapto)-3-phenylpropionylamino)malonamide | 0.43 mmol, 0.29 g | ClC1=CC=C(CCNC(C(C(=O)NCCC2=CC=C(C=C2)Cl)NC([C@H](CC2=CC=CC=C2)SCC2=CC=C(C=C2)OC)=O)=O)C=C1 | C36H37Cl2N3O4S
reactant | anisole | 0.47 mL | C1(=CC=CC=C1)OC | C7H8O
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
catalyst | mercury (II) acetate | 0.54 mmol, 0.171 g | C(C)(=O)[O-].[Hg+2].C(C)(=O)[O-]
product | N,N′-di-(4-chlorophenethyl)-2-(2-mercapto-3-phenylpropionylamino)malonamide | 80% | ClC1=CC=C(CCNC(C(C(=O)NCCC2=CC=C(C=C2)Cl)NC(C(CC2=CC=CC=C2)S)=O)=O)C=C1 | C28H29Cl2N3O3S
